US07799810B2
Step 2: 1-(4-Pyrazol-1-yl-phenyl)-propan-2-one
A stirred suspension comprising iron (10.7 g, 191.9 mmol) in glacial acetic acid (150 ml) under an inert atmosphere of argon is heated to 40° C. and then treated with a solution of 1-[4-(2-nitro-propyl)-phenyl]-1H-pyrazole (8.8 g, 38.39 mmol) in glacial acetic acid (100 ml). The reaction mixture is heated to 100° C. for 2 hours and then allowed to cool to room temperature. The mixture is poured onto ice-water (200 ml), stirred for 5 minutes and then filtered through celite washing through with DCM (50 ml). The organic portion of the filtrate is separated and the aqueous is extracted with DCM (150 ml). The organic portions are combined, washed with water (3×50 ml), brine (1×25 ml), dried (MgSO4) and concentrated in vacuo to afford the title compound as a red oil. [MH+ 201.25].

reactant | 1-[4-(2-nitro-propyl)-phenyl]-1H-pyrazole | 38.39 mmol, 8.8 g | [N+](=O)([O-])C(CC1=CC=C(C=C1)N1N=CC=C1)C | C12H13N3O2
reactant | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
reactant | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
catalyst | iron | 191.9 mmol, 10.7 g | [Fe] | Fe
product | 1-(4-Pyrazol-1-yl-phenyl)-propan-2-one | N1(N=CC=C1)C1=CC=C(C=C1)CC(C)=O | C12H12N2O
